US05852011
Methyl 4-[N,N-bis(2-hydroxyethyl)aminomethyl]benzoate
A solution of 1.7 g (9.2 mmol) of methyl 4-chloromethylbenzoate in 25 ml of chloroform was added with 10 g (95 mmol) of diethanolamine, followed by heating under reflux for 10 hours. The resulting solution was washed with water and then dried over magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (chloroform), whereby 1.5 g of a colorless oil were obtained.

reactant | methyl 4-chloromethylbenzoate | 9.2 mmol, 1.7 g | ClCC1=CC=C(C(=O)OC)C=C1 | C9H9ClO2
reactant | diethanolamine | 95 mmol, 10 g | N(CCO)CCO | C4H11NO2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 4-[N,N-bis(2-hydroxyethyl)aminomethyl]benzoate | 1.5 g | OCCN(CCO)CC1=CC=C(C(=O)OC)C=C1 | C13H19NO4
